US06638929B2
A mixture of 12.0 g (40.5 mmol) of 7-chloro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester (J. Med. Chem. 23, 1358 (1980)) and 60.0 mL of 2.5 N sodium hydroxide in 160.0 mL of ethanol is heated at reflux temperature for 1.5 hours. After allowing the reaction mixture to cool to room temperature, it is further cooled in an ice bath, brought to pH 4 with 4.0 N hydrochloric acid and stirred for 0.5 hour. The solid is collected by filtration, washed with water and dried in vacuo to yield 10.1 g of 7-chloro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid as a tan solid, mp 294-297° C.

reactant | 7-chloro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid ethyl ester | 40.5 mmol, 12.0 g | C(C)OC(=O)C1=CNC2=CC(=C(C=C2C1=O)[N+](=O)[O-])Cl | C12H9ClN2O5
reactant | sodium hydroxide | 2.5 N, 60.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4.0 N | Cl | ClH
solvent | ethanol | 160.0 mL | C(C)O | C2H6O
product | 7-chloro-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 10.1 g | ClC1=C(C=C2C(C(=CNC2=C1)C(=O)O)=O)[N+](=O)[O-] | C10H5ClN2O5
